US07855188B2
Preparation of Quaternized Amino Glucosamine
For the synthesis, pH of the trimethylamine solution was first adjusted to 2.0 to increase the boiling point. Then epoxypropyl chloride at same molar ratio was added dropwise and the pH was maintained at 9 using IM NaOH solution. Glucosamine was then added at same molar ratio and reaction was proceeded by stirring for 24 h. Throughout the reaction pH was maintained at 9.0 product was extracted using ethanol, methanol and tri hydrofluoride and quaternized amino glucosamine was obtained as a dark brown fluffy solid. Structure of newly synthesis was confirmed by elemental analyses and FT-IR. The result of elemental analysis was demonstrated in table 1 and the result of FT-IR was shown in FIG. 1. Bend absorption observed at 1480 cm.sup.-1 in QAGlc by FT-IR, clearly confirmed the quaternization of glucosamine (substitution of N(CH3)3 group).

reactant | trimethylamine | CN(C)C | C3H9N
reactant | epoxypropyl chloride | O1CC1CCl | C3H5ClO
reactant | NaOH | [OH-].[Na+]
reactant | Glucosamine | OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
product | Amino Glucosamine | NC1(O)[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H14N2O5
